US05075483
2-[2,6-Di-tert-butyl-4-(2-(n-octadecyloxycarbonyl)ethyl)-phenoxy]-1,3,2-benzoxazaphospholidine
Into a cooled solution of 29.8 g (50 mmol) of 2,6-di-tert-butyl-4-[2-(n-octadecyloxycarbonyl)ethyl]-phenyl phosphorodichloridite in 100 ml of methylene chloride at dry ice/acetone temperature is added a solution of 5.46 g (50 mmol) of 2-aminophenol and 13.95 ml (100 mmol) of triethylamine in 25 ml of methylene chloride. After the addition is complete, the mixture is warmed to room temperature with continual stirring. After 16 hours, the reaction mixture is concentrated under reduced pressure, mixed with 50 ml of toluene and filtered to remove insoluble solids. The filtrate is reconcentrated, dissolved in hexane and treated with decolorizing charcoal. The resultant mixture is clarified and the filtrate concentrated under reduced pressure to give 27.6 g of the title compound as a white solid melting at 58°-65° C.

reactant | 2,6-di-tert-butyl-4-[2-(n-octadecyloxycarbonyl)ethyl]-phenyl phosphorodichloridite | 50 mmol, 29.8 g | P(OC1=C(C=C(C=C1C(C)(C)C)CCC(=O)OCCCCCCCCCCCCCCCCCC)C(C)(C)C)(Cl)Cl | C35H61Cl2O3P
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 2-aminophenol | 50 mmol, 5.46 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 100 mmol, 13.95 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-[2,6-Di-tert-butyl-4-(2-(n-octadecyloxycarbonyl)ethyl)-phenoxy]-1,3,2-benzoxazaphospholidine | 27.6 g | C(C)(C)(C)C1=C(OP2OC3=C(N2)C=CC=C3)C(=CC(=C1)CCC(=O)OCCCCCCCCCCCCCCCCCC)C(C)(C)C | C41H66NO4P
